US07030267B2
To a solution of 1-(tert-butoxycarbonylamino-methyl)-2-isobutyl-cyclopropanecarboxylic acid (2.8 g, 10.3 mmol) in dry 1,4-dioxane (60 mL) was added 4N HCl (40 mL, in 1,4-dioxane). The reaction mixture was stirred at room temperature overnight and ether was added (100 mL). The white solid was collected and dried to give 1.6 g (76%) of 1-aminomethyl-2-isobutyl-cyclopropanecarboxylic acid hydrochloride: mp: 254–255° C.; 1H NMR (300 MHz, D2O) δ 0.95 (t, J=6.2 Hz, 6H), 0.96 (m, 1H), 1.21–1.28 (m, 1H), 1.51–1.80 (m, 4H), 3.06 (d, J=13.8 Hz, 1H), 3.58 (d, J=13.8 Hz, 1H); 13C NMR (75 MHz, D2O) δ 21.7, 21.9, 22.2, 25.3, 28.1, 28.6, 37.1, 40.2, 178.1; MS (APCI) m/z 172 [M+H]+. Anal. Calcd. For C9H17NO2—HCl: C, 52.05; H, 8.74; N, 6.74. Found: C, 52.10; H, 8.73; N, 6.67.

reactant | 1-(tert-butoxycarbonylamino-methyl)-2-isobutyl-cyclopropanecarboxylic acid | 10.3 mmol, 2.8 g | C(C)(C)(C)OC(=O)NCC1(C(C1)CC(C)C)C(=O)O | C14H25NO4
reactant | HCl | 4N, 40 mL | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 1-aminomethyl-2-isobutyl-cyclopropanecarboxylic acid hydrochloride | 1.6 g, 76% | Cl.NCC1(C(C1)CC(C)C)C(=O)O | InChI=1S/C9H17NO2.ClH/c1-6(2)3-7-4-9(7,5-10)8(11)12;/h6-7H,3-5,10H2,1-2H3,(H,11,12);1H
